US08258129B2
c) 2-chloro-4-(3,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl)-5-methoxy-pyrimidine
1 g 2,4-dichloro-5-methoxy-pyrimidine are dissolved in 4 mL butanol and combined with 1.04 g 4,5,6,7-tetrahydroimidazopyridine dihydrochloride and 2.96 mL ethyldiisopropylamine. This mixture is stirred for 16 h at 50° C. and then the solvent is eliminated in vacuo. The crude mixture is purified by column chromatography. The carrier material used is C18-RP-silica gel and a gradient is run through which consists at the starting point of 95% water and 5% acetonitrile and at the finishing point of 70% water and 30% acetonitrile. 0.2% formic acid is added to both eluants. The suitable fractions are freeze-dried.

reactant | 2,4-dichloro-5-methoxy-pyrimidine | 1 g | ClC1=NC=C(C(=N1)Cl)OC | C5H4Cl2N2O
reactant | 4,5,6,7-tetrahydroimidazopyridine dihydrochloride | 1.04 g | Cl.Cl.N1C=NC2=C1CCCN2
reactant | ethyldiisopropylamine | 2.96 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | butanol | 4 mL | C(CCC)O | C4H10O
product | 2-chloro-4-(3,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl)-5-methoxy-pyrimidine | ClC1=NC=C(C(=N1)N1CC2=C(CC1)N=CN2)OC | C11H12ClN5O
